US05210092
A mixture of 2-[N-butyryl-N-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]amino]-4-methyl-3-nitropyridine (700 mg), iron powder (894 mg), acetic acid (1.8 ml) and ethanol (15 ml) was stirred under reflux for 15 hours. After being cooled to room temperature, the reaction mixture was filtered and the filtrate was evaporated in vacuo. The residue was partitioned into ethyl acetate (100 ml) and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography (n-hexane-ethyl acetate =1:1) to give 3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo-[4,5-b]pyridine (565 mg) as a pale yellow powder.

reactant | 2-[N-butyryl-N-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]amino]-4-methyl-3-nitropyridine | 700 mg | C(CCC)(=O)N(CC1=CC=C(C=C1)N1C(=CC(=C1)Cl)C#N)C1=NC=CC(=C1[N+](=O)[O-])C | C22H20ClN5O3
reactant | acetic acid | 1.8 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 894 mg | [Fe] | Fe
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-[4-(4-chloro-2-cyano-1-pyrrolyl)benzyl]-7-methyl-2-propyl-3H-imidazo-[4,5-b]pyridine | 565 mg | ClC=1C=C(N(C1)C1=CC=C(CN2C(=NC=3C2=NC=CC3C)CCC)C=C1)C#N | C22H20ClN5
